US06458796B1
3-Azidononane
15.0 g (67.46 mmol) of 1-ethyl-heptyl methanesulphonate are dissolved in 300 ml of DMSO and, after addition of 17.54 g (269.8 mmol) of sodium azide, the mixture is stirred at 50° C. for 16 hours. The reaction mixture is poured into ice-water and extracted three times with ether. The extract is dried over sodium sulphate giving 11.4 g (96%) of a yellow liquid.

reactant | 1-ethyl-heptyl methanesulphonate | 67.46 mmol, 15.0 g | CS(=O)(=O)OC(CCCCCC)CC | C10H22O3S
reactant | sodium azide | 269.8 mmol, 17.54 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
product | 3-Azidononane | N(=[N+]=[N-])C(CC)CCCCCC | C9H19N3
